US04072696
4 G. of 1,2-diamino-4-propargylthiobenzene in 40 ml. aceton is treated with 10 g. of methoxy carbonyl isothiocyanate. The mixture is left overnight at room temperature, stripped under vacuum and the residue triturated with ether. Recrystallization from methanol gives pure 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-propargylthio-benzene.

reactant | 1,2-diamino-4-propargylthiobenzene | NC1=C(C=C(C=C1)SCC#C)N | C9H10N2S
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | aceton | CC(=O)C | C3H6O
product | 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-propargylthio-benzene | COC(=O)NC(NC1=C(C=C(C=C1)SCC#C)NC(=S)NC(=O)OC)=S | C15H16N4O4S3
